US09359362B2
N-{(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}propanamide
Under an atmosphere of argon protective gas, (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile hydrochloride (40 mg, 87 μmol) was dissolved in abs. pyridine (2 ml). At room temperature, propionic anhydride (227 mg, 1747 μmol, 20 eq.) was added. After 12 h, analysis of the reaction by HPLC showed substantial conversion. The reaction mixture was directly purified by preparative HPLC (Reprosil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (32.6 mg, 78% of theory).

reactant | (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile hydrochloride | 87 μmol, 40 mg | Cl.NC1=NN2C(N(C(=C([C@H]2C2=CC=C(C=C2)C#N)C#N)C)C2=CC(=CC=C2)C(F)(F)F)=N1
reactant | propionic anhydride | 1747 μmol, 227 mg, 20 eq. | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-{(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}propanamide | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)NC(CC)=O)C2=CC(=CC=C2)C(F)(F)F)C | C24H18F3N7O
